US09419226B2
Under an argon atmosphere, 8.53 g of 1-naphthalene boronic acid, 14.7 g of 2-bromo-3-nitrofluoranthene, 1.04 g of tetrakistriphenylphosphine palladium(0), 70 mL of 1,2-dimethoxyethane, 70 mL of toluene, and 70 mL of a 2 M aqueous solution of sodium carbonate were charged in a flask, and the resultant mixture was refluxed for 8 h under heating and stirring. After cooling to room temperature, the reaction solution was extracted with toluene and then the aqueous layer was removed. The organic layer was washed with a saturated saline, dried over magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to obtain 10.4 g of 2-(1-naphthyl)-3-nitrofluoranthene.

reactant | 1-naphthalene boronic acid | 8.53 g | C1(=CC=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | 2-bromo-3-nitrofluoranthene | 14.7 g | BrC1=CC=2C3=CC=CC=C3C3=CC=CC(=C1[N+](=O)[O-])C23 | C16H8BrNO2
reactant | 1,2-dimethoxyethane | 70 mL | COCCOC | C4H10O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(1-naphthyl)-3-nitrofluoranthene | 10.4 g | C1(=CC=CC2=CC=CC=C12)C1=CC=2C3=CC=CC=C3C3=CC=CC(=C1[N+](=O)[O-])C23 | C26H15NO2
